US07157488B2
3-(3,3,3-Trifluoropropoxy)benzaldehyde
Combine 3-hydroxybenzaldehyde (130.2 g, 1.066 mol), 3,3,3-trifluoropropoxy tosylate (143 g, 0.533 mol), potassium carbonate (147.35 g, 1,066 mol) and absolute ethanol (1430 mL) in a three-necked round-bottomed flask equipped with a reflux condenser and a magnetic stirred and reflux for 4 h under argon atmosphere. Concentrate the reaction mixture under reduced pressure. Pour the concentrated mixture over 1N sodium hydroxide (2145 mL), stir for 30 min and extract with dichloromethane (2145 mL). Decant the organic layer wash with 1N sodium hydroxide (2145 mL). After separation, wash the organic layer successively twice by 1 L water (pH aqueous phase=7), dry over 30 g magnesium sulfate, evaporate the dichloromethane organic layer to dryness under reduced pressure to yield 55.4 g of the title compound (0.254 mol, 47.6% yield) as a slightly yellow oily material.

reactant | 3-hydroxybenzaldehyde | 1.066 mol, 130.2 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 3,3,3-trifluoropropoxy tosylate | 0.533 mol, 143 g | S(=O)(=O)(OOCCC(F)(F)F)C1=CC=C(C)C=C1 | C10H11F3O4S
reactant | potassium carbonate | 1,066 mol, 147.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1430 mL | C(C)O | C2H6O
product | 3-(3,3,3-Trifluoropropoxy)benzaldehyde | 0.254 mol, 55.4 g, 47.6% yield | FC(CCOC=1C=C(C=O)C=CC1)(F)F | C10H9F3O2
